simulator lang=spectre 
global 0 gnd! vdd!
parameters dc_offset=0 run_gatekeeper={{run_gatekeeper}} run_full_char={{run_full_char}} fet_num={{fet_num}} vdd={{vdd}} vcm={{vcm}} tempc={{tempc}} rfeedback_val={{rfeedback_val}} rsrc_val={{rsrc_val}} cload_val={{cload_val}} nA1={{nA1}} nA2={{nA2}} nA3={{nA3}} nA4={{nA4}} nA5={{nA5}} nB1={{nB1}} nB2={{nB2}} nB3={{nB3}} nB4={{nB4}} nB5={{nB5}}

{% if fet_num == 7 %}
include "{{lstp_path}}/7nfet.pm"
include "{{lstp_path}}/7pfet.pm"
{% elif fet_num == 10 %}
include "{{lstp_path}}/10nfet.pm"
include "{{lstp_path}}/10pfet.pm"
{% elif fet_num == 14 %}
include "{{lstp_path}}/14nfet.pm"
include "{{lstp_path}}/14pfet.pm"
{% elif fet_num == 16 %}
include "{{lstp_path}}/16nfet.pm"
include "{{lstp_path}}/16pfet.pm"
{% elif fet_num == 20 %}
include "{{lstp_path}}/20nfet.pm"
include "{{lstp_path}}/20pfet.pm"
{% endif %}

*--- TOPOLOGY ---*

*--- single_ended_class_ab_ota_nmos Vinp Vinn Voutp ---*
*.PININFO Vinp:I Vinn:I Voutp:O
MM0 net10 net11 gnd! gnd! nfet l=nA1 nfin=nB1
MM1 net11 Vinn gnd! gnd! nfet l=nA2 nfin=nB2
MM2 net11 Vinp gnd! gnd! nfet l=nA2 nfin=nB2
MM3 net12 Vinp net10 gnd! nfet l=nA3 nfin=nB3
MM4 Voutp Vinn net10 gnd! nfet l=nA3 nfin=nB3
MM5 net12 Vinp net11 gnd! nfet l=nA4 nfin=nB4
MM6 Voutp Vinn net11 gnd! nfet l=nA4 nfin=nB4
MM7 net12 net12 vdd! vdd! pfet l=nA5 nfin=nB5
MM8 Voutp net12 vdd! vdd! pfet l=nA5 nfin=nB5

*--- BIAS VALUES ---*

*--- TESTBENCH ---*
VS (gnd! 0) vsource dc=0 type=dc
V0 (vdd! gnd!) vsource dc=vdd ac=1 type=dc
V1 (vcm_node gnd!) vsource dc=vcm ac=1 type=dc // AC=1 for CMRR

V_mode (mode_ctrl 0) vsource dc=0 type=dc

Vsig (sig_node 0) vsource type=sine dc=dc_offset mag=1 \
    ampl=0 freq=100M val0=0 delay=5n rise=50p fall=50p width=100n period=200n

E_plus (Vinp_pre vcm_node sig_node 0) vcvs gain=1.0

S_Rin (Vinp Vinp_pre mode_ctrl 0) relay ropen=rsrc_val rclosed=1m vt1=0.1 vt2=0.9
S_Rfb (Voutp Vfb_node mode_ctrl 0) relay ropen=rfeedback_val rclosed=1m vt1=0.1 vt2=0.9

Vprobe (Vfb_node Vinn) vsource dc=0 type=dc

S_Unity (Voutp Vinn mode_ctrl 0) relay ropen=10G rclosed=1m vt1=0.1 vt2=0.9

Cload (Voutp gnd!) capacitor c=cload_val

*--- SIMULATOR OPTIONS ---*
simulatorOptions options rawfmt=psfbin psfversion="1.4.0" reltol=1e-4 vabstol=1e-6 \
    iabstol=1e-12 temp=tempc tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    homotopy=all

*--- SIMULATION TIER 1 (AC/Stability/Noise) ---*
{% if run_gatekeeper %}
set_char_mode alter dev=V_mode param=dc value=0
dcOp_sim dc 
stb_sim stb probe=Vprobe start=1 stop=100G dec=10
noise_sim (Voutp 0) noise start=1 stop=100G dec=10 iprobe=Vsig

xf_sim (Voutp 0) xf start=1 stop=100G dec=10
xf_cm_sim (Voutp 0) xf dev=V1 start=1 stop=100G dec=10
xf_psrr (Voutp 0) xf dev=V0 start=1 stop=100G dec=10
{% endif %}

*--- SIMULATION TIER 2 (Large Signal) ---*
{% if run_full_char %}
set_unity_mode alter dev=V_mode param=dc value=1
swing_sweep dc param=dc_offset start=(-0.5*vdd) stop=(0.5*vdd) step=2m

set_src_sine alter dev=Vsig param=ampl value=(0.1 * vdd)
thd_pss pss fund=100M harms=10 tstab=100n errpreset=moderate

set_src_pulse alter dev=Vsig param=type value=pulse
set_src_val_small alter dev=Vsig param=val1 value=(0.05 * vdd)
settle_tran tran stop=100n step=5p errpreset=conservative

set_src_val_large alter dev=Vsig param=val1 value=(0.2 * vdd)
slew_large_tran tran stop=100n step=5p errpreset=conservative
{% endif %}

*--- DATA EXPORT ---*
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p Voutp Vinp Vinn MM0:gm MM0:vgs MM0:vds MM0:ids MM0:region MM1:gm MM1:vgs MM1:vds MM1:ids MM1:region MM2:gm MM2:vgs MM2:vds MM2:ids MM2:region MM3:gm MM3:vgs MM3:vds MM3:ids MM3:region MM4:gm MM4:vgs MM4:vds MM4:ids MM4:region MM5:gm MM5:vgs MM5:vds MM5:ids MM5:region MM6:gm MM6:vgs MM6:vds MM6:ids MM6:region MM7:gm MM7:vgs MM7:vds MM7:ids MM7:region MM8:gm MM8:vgs MM8:vds MM8:ids MM8:region
saveOptions options save=allpub rawfmt=psfbin